US04215047
7-(Nα -tert-butyloxycarbonyl-O-benzyl-L-serylglycyl-L-arginyl)amino-4-methylcoumarin hydrochloric acid salt (120 mg, 0.28 mM) was dissolved in methyl alcohol (50 ml), and palladium-carbon catalyst (20 mg) was added. Through this mixture hydrogen gas was passed for 4 hours with stirring. The catalyst was removed by filtration and the filtrate was concentrted to yield a solid material. The residue was dissolved in acetic acid (10 ml) and lyophilized to give 7-(Nα-tert-butyloxycarbonyl-L-serylglycyl-L-arginyl)amino-4-methylcoumarin hydrochloric acid salt [X] (70 mg).

reactant | 7-(Nα -tert-butyloxycarbonyl-O-benzyl-L-serylglycyl-L-arginyl)amino-4-methylcoumarin hydrochloric acid salt | 0.28 mM, 120 mg | Cl.C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)NC1=CC=C2C(=CC(OC2=C1)=O)C
reactant | hydrogen | [H][H] | H2
solvent | methyl alcohol | 50 ml | CO | CH4O
catalyst | palladium-carbon | 20 mg | [C].[Pd]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-(Nα-tert-butyloxycarbonyl-L-serylglycyl-L-arginyl)amino-4-methylcoumarin hydrochloric acid salt | 70 mg | Cl.C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)NC1=CC=C2C(=CC(OC2=C1)=O)C | InChI=1S/C26H37N7O8.ClH/c1-14-10-21(36)40-19-11-15(7-8-16(14)19)31-23(38)17(6-5-9-29-24(27)28)32-20(35)12-30-22(37)18(13-34)33-25(39)41-26(2,3)4;/h7-8,10-11,17-18,34H,5-6,9,12-13H2,1-4H3,(H,30,37)(H,31,38)(H,32,35)(H,33,39)(H4,27,28,29);1H/t17-,18-;/m0./s1
